.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1240-451
* Inductance = 450nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1240-451_freq port1 port2 PARAMS: Cpar=2.57pF Ind=0.45uH
X1 port1 port2 Model1A PARAMS:
+ R1=5
+ R2=0.00173
+ C= {Cpar}
+ K1=0.000001
+ K2=0.024
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=290.5425547
.ends MLC1240-451_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1240-451
* Inductance = 450nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1240-451_imp port1 port2 PARAMS: Cpar=2.534pF Ind=0.45uH
X1 port1 port2 Model1D PARAMS:
+ R1=5
+ R2=0.00173
+ C= {Cpar}
+ K1=0.000001
+ K2=0.024
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=290.5425547
.ends MLC1240-451_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1240-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1240-901_freq port1 port2 PARAMS: Cpar=3.65pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=0.00257
+ C= {Cpar}
+ K1=0.000001
+ K2=0.048
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=438.4439113
.ends MLC1240-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1240-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1240-901_imp port1 port2 PARAMS: Cpar=3.626pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.00257
+ C= {Cpar}
+ K1=0.000001
+ K2=0.048
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=438.4439113
.ends MLC1240-901_imp

