.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1245-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1245-152_freq port1 port2 PARAMS: Cpar=2.84pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=16
+ R2=0.00408
+ C= {Cpar}
+ K1=0.000001
+ K2=0.079
+ K3= {Ind}
+ K4=0.005
+ K5=0.000007
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=682.6777571
.ends MLC1245-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1245-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1245-152_imp port1 port2 PARAMS: Cpar=2.78pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=16
+ R2=0.00408
+ C= {Cpar}
+ K1=0.000001
+ K2=0.079
+ K3= {Ind}
+ K4=0.005
+ K5=0.000007
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=682.6777571
.ends MLC1245-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1245-402
* Inductance = 4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1245-402_freq port1 port2 PARAMS: Cpar=4.98pF Ind=4uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.00818
+ C= {Cpar}
+ K1=0.000001
+ K2=0.255
+ K3= {Ind}
+ K4=0.041
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1456.812564
.ends MLC1245-402_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1245-402
* Inductance = 4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1245-402_imp port1 port2 PARAMS: Cpar=4.685pF Ind=4uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.00818
+ C= {Cpar}
+ K1=0.000001
+ K2=0.255
+ K3= {Ind}
+ K4=0.041
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1456.812564
.ends MLC1245-402_imp

