.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-801
* Inductance = 800nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1250-801_freq port1 port2 PARAMS: Cpar=2.86pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=2
+ R2=0.00235
+ C= {Cpar}
+ K1=0.000001
+ K2=0.043
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=440.506631
.ends MLC1250-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-801
* Inductance = 800nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1250-801_imp port1 port2 PARAMS: Cpar=2.838pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=2
+ R2=0.00235
+ C= {Cpar}
+ K1=0.000001
+ K2=0.043
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=440.506631
.ends MLC1250-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1250-132_freq port1 port2 PARAMS: Cpar=4pF Ind=1.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=16
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.075
+ K3= {Ind}
+ K4=0.003
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=609.5871184
.ends MLC1250-132_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1250-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1250-132_imp port1 port2 PARAMS: Cpar=3.946pF Ind=1.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=16
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.075
+ K3= {Ind}
+ K4=0.003
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=609.5871184
.ends MLC1250-132_imp

