.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1255-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1255-421_freq port1 port2 PARAMS: Cpar=1.79pF Ind=0.42uH
X1 port1 port2 Model1A PARAMS:
+ R1=1
+ R2=0.00093
+ C= {Cpar}
+ K1=0.000001
+ K2=0.019
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=258.1467903
.ends MLC1255-421_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1255-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1255-421_imp port1 port2 PARAMS: Cpar=1.762pF Ind=0.42uH
X1 port1 port2 Model1D PARAMS:
+ R1=1
+ R2=0.00093
+ C= {Cpar}
+ K1=0.000001
+ K2=0.019
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=258.1467903
.ends MLC1255-421_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1255-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1255-122_freq port1 port2 PARAMS: Cpar=3.01pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=2
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.066
+ K3= {Ind}
+ K4=0.001
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=602.7762736
.ends MLC1255-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1255-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1255-122_imp port1 port2 PARAMS: Cpar=2.997pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=2
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.066
+ K3= {Ind}
+ K4=0.001
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=602.7762736
.ends MLC1255-122_imp

