.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1260-401
* Inductance = 400nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1260-401_freq port1 port2 PARAMS: Cpar=2.52pF Ind=0.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=2
+ R2=0.00093
+ C= {Cpar}
+ K1=0.000001
+ K2=0.019
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=239.4548211
.ends MLC1260-401_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1260-401
* Inductance = 400nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1260-401_imp port1 port2 PARAMS: Cpar=2.479pF Ind=0.4uH
X1 port1 port2 Model1D PARAMS:
+ R1=2
+ R2=0.00093
+ C= {Cpar}
+ K1=0.000001
+ K2=0.019
+ K3= {Ind}
+ K4=0.001
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=239.4548211
.ends MLC1260-401_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1260-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1260-122_freq port1 port2 PARAMS: Cpar=2.6pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=4
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.06
+ K3= {Ind}
+ K4=0.001
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=567.3361296
.ends MLC1260-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1260-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1260-122_imp port1 port2 PARAMS: Cpar=2.589pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=4
+ R2=0.00238
+ C= {Cpar}
+ K1=0.000001
+ K2=0.06
+ K3= {Ind}
+ K4=0.001
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=567.3361296
.ends MLC1260-122_imp

