.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1538-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1538-102_freq port1 port2 PARAMS: Cpar=5.08pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=29
+ R2=0.00346
+ C= {Cpar}
+ K1=0.000001
+ K2=0.063
+ K3= {Ind}
+ K4=0.009
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.8745351
.ends MLC1538-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1538-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1538-102_imp port1 port2 PARAMS: Cpar=4.785pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=29
+ R2=0.00346
+ C= {Cpar}
+ K1=0.000001
+ K2=0.063
+ K3= {Ind}
+ K4=0.009
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.8745351
.ends MLC1538-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1538-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1538-152_freq port1 port2 PARAMS: Cpar=10pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=22
+ R2=0.00436
+ C= {Cpar}
+ K1=0.000001
+ K2=0.116
+ K3= {Ind}
+ K4=0.016
+ K5=0.0000094
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=676.1083138
.ends MLC1538-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1538-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1538-152_imp port1 port2 PARAMS: Cpar=9.365pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=22
+ R2=0.00436
+ C= {Cpar}
+ K1=0.000001
+ K2=0.116
+ K3= {Ind}
+ K4=0.016
+ K5=0.0000094
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=676.1083138
.ends MLC1538-152_imp

